US08466162B2
A-8) 4-Chloro-6-ethyl-5-iodo-pyrimidin-2-ylamine
25.0 g (159 mmol) 4-Chloro-6-ethyl-pyrimidin-2-ylamine in 1.0 L acetic acid is cooled to 0° C. and 36.0 g (159 mmol) NIS is added in one portion. The reaction mixture is stirred at RT until conversion of the starting material is completed (18 h). An aqueous solution of 5% Na2S2O3 and 10% NaHCO3 is added until the mixture decolorizes. The formed precipitate is filtered off, taken up with water and the suspension stirred at RT for 60 minutes. The product is filtered off, washed with diethyl ether and dried in vacuo at 40° C. Yield: 40.3 g (90%). 1H NMR (DMSO-d6) δ: 7.2 (s, 2H), 2.7 (quart., 2H), 1.1 (tripl., 3H). HPLC-MS: tR=1.62 min , (M+H)+=284.

reactant | 4-Chloro-6-ethyl-pyrimidin-2-ylamine | 159 mmol, 25.0 g | ClC1=NC(=NC(=C1)CC)N | C6H8ClN3
reactant | NIS | 159 mmol, 36.0 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 1.0 L | C(C)(=O)O | C2H4O2
product | 4-Chloro-6-ethyl-5-iodo-pyrimidin-2-ylamine | ClC1=NC(=NC(=C1I)CC)N | C6H7ClIN3
